### PR TITLE
[Merged by Bors] - feat: measure real of the complement of a null measurable set

### PR DESCRIPTION
**Pull request by EtienneC30**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Measure/Real.lean [hunk 1]
```diff
@@ -368,6 +368,11 @@ theorem measureReal_compl [IsFiniteMeasure μ] (h₁ : MeasurableSet s) :
   rw [compl_eq_univ_diff]
   exact measureReal_diff (subset_univ s) h₁
 
+theorem measureReal_compl₀ [IsFiniteMeasure μ] (h₁ : NullMeasurableSet s μ) :
+    μ.real sᶜ = μ.real univ - μ.real s := by
+  simp only [measureReal_def, ne_eq, measure_ne_top, not_false_eq_true, measure_compl₀ h₁]
+  rw [ENNReal.toReal_sub_of_le (measure_mono (subset_univ _)) (by finiteness)]
```
Comment (Ruben-VandeVelde) [inline Mathlib/MeasureTheory/Measure/Real.lean]: I wanted to suggest you add MeasureTheory.measureReal_add_measureReal_compl₀, but it already exists. Can you use it to shorten this proof, though?

**Review by RemyDegenne — APPROVED** [review]
Thanks!
bors r+
